US09376452B2
To a solution of tert-butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (50 mg, 0.18 mmol) in THF (3 mL) was added 2-fluorobenzoyl isothiocyanate (35.2 mg, 0.19 mmol) and the mixture heated at 60° C. for 16 h. The solvent was removed in vacuo. The residue was sonicated (1 min) with cold EtOH, filtered and the resulting solid rinsed with cold EtOH to yield tert-butyl 2-(3-(2-fluorobenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (41 mg, 0.088 mmol, 50% yield) as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ 14.70 (s, 1H), 9.69 (s, 1H), 8.25-8.11 (m, 1H), 7.63-7.49 (m, 1H), 7.36-7.26 (m, 1H), 7.23-7.17 (m, 1H), 4.72 (s, 2H), 2.73 (d, J=6.3, 2H), 1.58 (d, J=2.4, 9H), 1.29 (d, J=1.7, 6H). 13C NMR (101 MHz, CDCl3) δ 173.27, 164.59, 161.79, 161.21, 161.18, 159.30, 147.36, 135.67, 135.57, 132.79, 129.15, 125.37, 125.34, 124.64, 119.06, 118.96, 118.06, 116.70, 116.46, 82.42, 70.79, 59.81, 38.24, 28.49, 26.48.

reactant | tert-butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.18 mmol, 50 mg | NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)OC(C)(C)C | C14H21NO3S
reactant | 2-fluorobenzoyl isothiocyanate | 0.19 mmol, 35.2 mg | FC1=C(C(=O)N=C=S)C=CC=C1 | C8H4FNOS
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(3-(2-fluorobenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.088 mmol, 41 mg, 50% yield | FC1=C(C(=O)NC(NC2=C(C3=C(COC(C3)(C)C)S2)C(=O)OC(C)(C)C)=S)C=CC=C1 | C22H25FN2O4S2
